US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxy)-5-fluoro-N2-[2-(hydroxymethyl)benzofuran-5-yl]-2,4-pyrimidinediamine, 5-fluoro-N4-(3-hydroxyphenyl)-N2-[2-(methoxycarbonyl)-(1H)-indol-5-yl]-2,4-pyrimidinediamine was reduced with DIBALH to yield 5-fluoro-N4-(3-hydroxyphenyl)-N2-[2-(hydroxymethyl)-(1H)-indol-5-yl]-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.81 (d, 1H, J=4.2 Hz), 7.23 (d, 1H, J=1.8 Hz), 7.28–7.23 (m, 2H), 7.19 (t, 1H, J=2.4 Hz), 7.12 (dd, 1H, J=1.8 and 9.0 Hz), 7.07 (t, 1H, J=8.4 Hz), 6.52 (ddd, 1H, J=1.2 and 8.1 Hz), 6.30 (s, 1H), 4.71 (s, 2H); 19F NMR (CD3OD): −47971; LCMS: ret. time: 15.36 min.; purity: 100%; MS (m/e): 366 (MH+).

reactant | N4-(3,4-ethylenedioxy)-5-fluoro-N2-[2-(hydroxymethyl)benzofuran-5-yl]-2,4-pyrimidinediamine | C1ON2C(=NC=C(C2(N)OC1)F)NC=1C=CC2=C(C=C(O2)CO)C1 | C15H15FN4O4
reactant | 5-fluoro-N4-(3-hydroxyphenyl)-N2-[2-(methoxycarbonyl)-(1H)-indol-5-yl]-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC=1C=C2C=C(NC2=CC1)C(=O)OC)NC1=CC(=CC=C1)O | C20H16FN5O3
reactant | DIBALH | CC(C)C[AlH]CC(C)C
product | 5-fluoro-N4-(3-hydroxyphenyl)-N2-[2-(hydroxymethyl)-(1H)-indol-5-yl]-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC=1C=C2C=C(NC2=CC1)CO)NC1=CC(=CC=C1)O | C19H16FN5O2
